US08372864B2
103 mg of methyl 7-(3-Cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate are dissolved in 2 cm3 of dioxane at a temperature close to 20° C. 0.6 cm3 of a 1N aqueous solution of sodium hydroxide are added, then the reaction mixture is heated at a temperature close to 60° C. for 30 min. The mixture is then concentrated to dryness under reduced pressure (5 kPa), taken up by 20 cm3 of water and 20 cm3 of ethyl ether. The aqueous phase is decanted, acidified with 0.4 cm3 of a 2N aqueous solution of hydrochloric acid and taken up with 20 cm3 of dichloromethane. The organic phase is extracted, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure (5 kPa). 89 mg of 7-(3-Cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid are obtained in the form of a white powder.

reactant | methyl 7-(3-Cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 103 mg | C(#N)C=1C=C(C=CC1)C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C25H28N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 2 cm3 | O1CCOCC1 | C4H8O2
product | 7-(3-Cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid | 89 mg | C(#N)C=1C=C(C=CC1)C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)O | C24H26N2O3
